US08877774B2
Step 5. Methyl 1-(4-((3-(azido(phenyl)methyl)phenoxy)methyl)phenyl)-cyclopropanecarboxylate
To a stirred solution of methyl 1-(4-((3-(hydroxy(phenyl)methyl)phenoxy)-methyl)phenyl)cyclopropanecarboxylate (1.824 g, 4.695 mmol) in toluene (21.8 mL) under an atmosphere of nitrogen, was added diphenylphosphoryl azide (1.21 mL, 5.635 mmol) followed by 1,8-diazabicyclo[5.4.0]undec-7-ene (0.84 mL, 5.635 mmol). The reaction mixture was stirred at 100° C. for 3 hours and then allowed to cool to room temperature. The reaction was quenched by addition of saturated aqueous ammonium chloride solution and extracted with ethyl acetate (×3). The combined organic extracts were washed with brine and dried (magnesium sulfate), filtered, and concentrated under reduced pressure to afford a brown oil. The crude material was purified by silica gel chromatography eluting with 0-14% ethyl acetate in iso-hexane to afford the title compound as a colourless oil (1.214 g, 62%).

reactant | methyl 1-(4-((3-(hydroxy(phenyl)methyl)phenoxy)-methyl)phenyl)cyclopropanecarboxylate | 4.695 mmol, 1.824 g | OC(C=1C=C(OCC2=CC=C(C=C2)C2(CC2)C(=O)OC)C=CC1)C1=CC=CC=C1 | C25H24O4
reactant | diphenylphosphoryl azide | 5.635 mmol, 1.21 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 5.635 mmol, 0.84 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 21.8 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 1-(4-((3-(azido(phenyl)methyl)phenoxy)methyl)phenyl)-cyclopropanecarboxylate | 1.214 g, 62% | N(=[N+]=[N-])C(C=1C=C(OCC2=CC=C(C=C2)C2(CC2)C(=O)OC)C=CC1)C1=CC=CC=C1 | C25H23N3O3
